US09216980B2
Step 4: 3-(5-Ethyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)-6-(1-methyl-1H-pyrazol-4-yl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole
A solution of sodium bis(trimethylsilyl)amide (1N solution in THF, 4.5 mL, 4.5 mmol) was added dropwise over 10 minutes to a solution of 5-(5-ethyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)-2-fluoro-6′-(1-methyl-1H-pyrazol-4-yl)-[3,4]bipyridinyl-3′-ylamine (638 mg, 1.50 mmol) in anhydrous THF (26 mL). After 30 minutes, the reaction was quenched by the addition of aqueous saturated aqueous potassium fluoride solution (10 mL). The resultant brown solution was partitioned between DCM (75 mL) and brine (50 mL). The organic phase was separated, dried over sodium sulfate, filtered and evaporated in vacuo to afford a residue that was purified by flash chromatography (silica, 50 g column, Biotage, 0-15% methanol in DCM) to afford the title compound as a white solid (96 mg, 16%). 1H NMR (CDCl3 plus CD3OD, 300 MHz): 8.82 (s, 1H), 8.76 (d, J=2.2 Hz, 1H), 8.66 (d, J=2.2 Hz, 1H), 8.29 (s, 1H), 8.07 (s, 1H), 8.05 (s, 1H), 7.11 (s, 1H), 4.00 (s, 3H), 3.64 (s, 2H), 3.02-2.95 (m, 2H), 2.93-2.86 (m, 2H), 2.70 (q, J=7.2 Hz, 2H), 1.24 (t, J=7.2 Hz, 3H).

reactant | sodium bis(trimethylsilyl)amide | 4.5 mmol, 1N, 4.5 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 5-(5-ethyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)-2-fluoro-6′-(1-methyl-1H-pyrazol-4-yl)-[3,4]bipyridinyl-3′-ylamine | 1.50 mmol, 638 mg | C(C)N1CC2=C(CC1)SC(=C2)C=2C=C(C(=NC2)F)C2=C(C=NC(=C2)C=2C=NN(C2)C)N | C23H23FN6S
solvent | THF | 26 mL | C1CCOC1 | C4H8O
product | 3-(5-Ethyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)-6-(1-methyl-1H-pyrazol-4-yl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 96 mg, 16% | C(C)N1CC2=C(CC1)SC(=C2)C2=CC1=C(NC3=C1C=C(N=C3)C=3C=NN(C3)C)N=C2 | C23H22N6S
